US08003811B2
Step A: (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diyl dibenzoate
1,4:3,6-dianhydro-D-mannitol (3.00 g, 20.53 mmol) was dissolved in THF (40 ml). The solution was cooled (0° C.), then triphenylphosphine (11.85 g, 45.17 mmol), benzoic acid (5.52 g, 45.17 mmol) and diisopropyl azodicarboxylate (8.75 ml, 45.17 mmol) were added. The reaction was allowed to warm to room temperature and stirred for 12 hrs. Then the solvent was removed under reduced pressure and the residue was purified by flash chromatography (Biotage SP1, EtOAc/n-hexane from 10 to 30%), affording of the title compound as a white solid.

reactant | 1,4:3,6-dianhydro-D-mannitol | 20.53 mmol, 3.00 g | C1[C@H]([C@@H]2[C@H](O1)[C@@H](CO2)O)O | C6H10O4
reactant | triphenylphosphine | 45.17 mmol, 11.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 45.17 mmol, 5.52 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diisopropyl azodicarboxylate | 45.17 mmol, 8.75 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diyl dibenzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]2[C@H](OC1)[C@H](CO2)OC(C2=CC=CC=C2)=O | C20H18O6
